US09428483B2
To a suspension of 1-adamantanecarboxylic acid (1.50 g) in water (22 mL), sodium carbonate (3.53 g) was added, and the mixture was stirred at 100° C. for 20 minutes. After cooling to 0° C., tetrabutylammonium hydrogen sulfate (1.00 g), chloroform (30 mL) and 1-chloroethyl sulfochloridate (1.94 g) were added to the reaction mixture, and the mixture was stirred at 0° C. for 1 hour and at room temperature for 12 hours. To the reaction solution, water was added, and the mixture was extracted twice with chloroform. The combined organic layer was washed with brine and then dried over anhydrous sodium sulfate. The insoluble was filtered off and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (silica gel cartridge, hexane:ethyl acetate=100:0-50:50) to give 1-chloroethyl adamantane-1-carboxylate (A-2-1, 1.10 g) as a colorless oil.

reactant | 1-adamantanecarboxylic acid | 1.50 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | sodium carbonate | 3.53 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 22 mL | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 1.00 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-chloroethyl adamantane-1-carboxylate | 1.10 g | C12(CC3CC(CC(C1)C3)C2)C(=O)OC(C)Cl | C13H19ClO2
